US08071651B2
a) 3-Chloro-6-methoxyhexan-2-one
1.5 mol of 6-methoxyhexan-2-one [29006-00-6] are added to a mixture of 3.6 mol of copper(II) chloride hydrate and 1.8 mol of lithium chloride in 900 ml of N,N-dimethylformamide at 80° C. The reaction mixture is stirred at 80-90° C. for 1 hour. 900 g of ice are added, and the precipitate is dissolved by adding N,N-dimethylformamide. Extraction with pentane (6×) is carried out. The combined organic phases are washed with water, dried over sodium sulphate and fractionated in vacuo. The title compound is identified by means of the Rf.

reactant | 6-methoxyhexan-2-one | 1.5 mol | COCCCCC(C)=O | C7H14O2
reactant | lithium chloride | 1.8 mol | [Cl-].[Li+]
solvent | N,N-dimethylformamide | 900 ml | CN(C=O)C | C3H7NO
catalyst | copper(II) chloride hydrate | 3.6 mol | O.[Cu](Cl)Cl
product | 3-Chloro-6-methoxyhexan-2-one | ClC(C(C)=O)CCCOC | C7H13ClO2
